US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-7-(1H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Sodium azide (154 mg) and ammonium chloride (125 mg) were added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (250 mg) in N,N-dimethylformamide (4 ml), and the resulting mixture was stirred at 150° C. for 8 hours. Sodium azide (154 mg) and ammonium chloride (125 mg) were further added thereto and stirred for another 6 hours. After the reaction solution was cooled to 25° C., a 10% aqueous potassium hydrogensulfate solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by HPLC to obtain the title compound (23 mg) as a white solid.

reactant | Sodium azide | 154 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 125 mg | [Cl-].[NH4+]
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 250 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O4
reactant | Sodium azide | 154 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 125 mg | [Cl-].[NH4+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-7-(1H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 23 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C3=NN=NN3)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H32ClN9O4
